US07960409B2
Step 1: N-methoxy-N-methylisothiazole-5-carboxamide
To a solution of 5-isothiazole carboxylic acid (5 g, 38.7 mmol) in dichloromethane (200 mL), 4-(dimethylamino)pyridine (473 mg, 3.87 mmol), N,O-dimethylhydroxylamine hydrochloride (4.53 g, 46.4 mmol) (N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride (8.17 g, 42.6 mmol) and triethylamine (13.63 μL, 97.0 mmol) were added and the reaction was stirred overnight at room temperature. The reaction mixture was then successively washed with 1N HCl, 1N NaOH and brine. The organic layer was dried over MgSO4, filtered and concentrated under reduced pressure. The crude residue obtained was used as such for the next step. 1H NMR (400 MHz, acetone-d6): 8.59 (s, 1H), 7.97 (s, 1H), 3.94 (s, 3H), 3.38 (s, 3H).

reactant | 5-isothiazole carboxylic acid | 38.7 mmol, 5 g | S1N=CC=C1C(=O)O | C4H3NO2S
reactant | N,O-dimethylhydroxylamine hydrochloride | 46.4 mmol, 4.53 g | Cl.CNOC
reactant | N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride | 42.6 mmol, 8.17 g | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 97.0 mmol, 13.63 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 3.87 mmol, 473 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-methoxy-N-methylisothiazole-5-carboxamide | CON(C(=O)C1=CC=NS1)C | C6H8N2O2S
